US05654431
N-(5-Bromopentyl)phthalimide
To a suspension n of phthalic anhydride (2.96 g, 20 mmol) in toluene (20 mL) was added 5-amino-1-pentanol (2.2 mL, 20 mmol) and the resulting mixture was heated to reflux for 14 hours. The solvent was removed under reduced pressure and the residue dissolved in dichloromethane (20 mL). This solution was cooled to 0° C. and triphenylphosphine (4.7 g, 18 mmol) and bromine were added. After warming to room temperature, the solution was stirred overnight and then poured into water (20 mL) and the organic phase was separated. The aqueous phase was extracted with dichloromethane (20 mL) and the combined organic phases were dried over sodium sulfate and evaporated to dryness. Silica gel chromatography using hexane/ethyl acetate (4:1) as the eluent gave the title compound as a syrup (4.13 g, 70% for 2 steps).

reactant | phthalic anhydride | 20 mmol, 2.96 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 5-amino-1-pentanol | 20 mmol, 2.2 mL | NCCCCCO | C5H13NO
reactant | triphenylphosphine | 18 mmol, 4.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | BrBr | Br2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 mL | O | H2O
product | N-(5-Bromopentyl)phthalimide | 4.13 g, 70% | BrCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C13H14BrNO2
